US07585880B2
ethyl 3-(2,6-difluoro-4-hydroxyphenyl)propanoate
A solution of ethyl 3-(2,6-difluoro-4-methoxyphenyl)propanoate (1.17 g, 4.79 mmol), aluminum chloride (1.9 g, 14.2 mmol) and 1-octanethiol (1.7 mL, 9.80 mmol) in dichloromethane (20 mL) was stirred from under ice-cooling to room temperature for 4 hr. The reaction mixture was poured into ice water, and the mixture was stirred for 1 hr. The mixed solution was extracted with dichloromethane, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (ethyl acetate:hexane=1:10-1:5) to give the title compound (1.0 g, yield 91%) as a colorless oil.

reactant | ethyl 3-(2,6-difluoro-4-methoxyphenyl)propanoate | 4.79 mmol, 1.17 g | FC1=C(C(=CC(=C1)OC)F)CCC(=O)OCC | C12H14F2O3
reactant | aluminum chloride | 14.2 mmol, 1.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-octanethiol | 9.80 mmol, 1.7 mL | C(CCCCCCC)S | C8H18S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | ethyl 3-(2,6-difluoro-4-hydroxyphenyl)propanoate | 1.0 g, yield 91% | FC1=C(C(=CC(=C1)O)F)CCC(=O)OCC | C11H12F2O3
